US07772245B2
To a stirred solution of 2-(1,3,4,9-tetrahydro-2H-b-carbolin-2-yl)pyrimidine-5-carboxylic acid (400 mg) in DCM (10 mL) was added EDCI (390 mg, mmol) at 0° C. After stirring the reaction mixture at 0° C. for 15 min. NH2OTHP (160 mg, mmol) was added. After stirring overnight, the reaction was diluted with DCM (30 mL). The organic layer was washed with saturated sodium bicarbonate and water. The crude product obtained on removal of solvent was purified by column chromatography using EtOAc in hexanes (50%) to obtain N-(tetrahydro-2H-pyran-2-yloxy)-2-[1,3,4,9-tetrahydro-2H-b-carbolin-2-yl]pyrimidine-5-carboxamide (250 mg, 46.8% yield), m/e=394 (M+1).

reactant | 2-(1,3,4,9-tetrahydro-2H-b-carbolin-2-yl)pyrimidine-5-carboxylic acid | 400 mg | C1N(CCC=2C3=CC=CC=C3NC12)C1=NC=C(C=N1)C(=O)O | C16H14N4O2
reactant | EDCI | 390 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | NH2OTHP | 160 mg | NOC1OCCCC1 | C5H11NO2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | N-(tetrahydro-2H-pyran-2-yloxy)-2-[1,3,4,9-tetrahydro-2H-b-carbolin-2-yl]pyrimidine-5-carboxamide | 250 mg, 46.8% yield | O1C(CCCC1)ONC(=O)C=1C=NC(=NC1)N1CC=2NC3=CC=CC=C3C2CC1 | C21H23N5O3
